US08420640B2
To stirred solution 4′-nitro-3′-(phenylamino) biphenyl-3-carboxylic acid (0.5 g, 1.5 mmol) in methanol (5 mL) PtO2.H2O (30 mg, 0.0149 mmol) was added. The resulting mixture was stirred under H2 atmosphere at room temperature for 10 h. After completion of reaction (by TLC) it was filtered through celite, evaporated under vacuum to get the crude product. Flash chromatography gave 4′-amino-3′-(phenylamino) biphenyl-3-carboxylic acid which was isolated finally as dihydrochloride salt (0.4 g) 88% yield. 1H NMR (500 MHz, DMSO): δ 6.87 (t, J=7 Hz, 1H), 7.02 (d, J=6.5 Hz, 2H), 7.32 (m, 4H), 7.59 (m, 2H), 7.84 (d, J=7.8 Hz 1H), 7.91 (d, J=7.5 Hz, 1H), 8.09 (s, 1H). HRMS (ESI) calculated for C19H17N2O2: 305.1285, Found: 305.1279.

reactant | 4′-nitro-3′-(phenylamino) biphenyl-3-carboxylic acid | 1.5 mmol, 0.5 g | [N+](=O)([O-])C1=C(C=C(C=C1)C1=CC(=CC=C1)C(=O)O)NC1=CC=CC=C1 | C19H14N2O4
reactant | methanol | 0.0149 mmol, 5 mL, 30 mg | CO | CH4O
product | 4′-amino-3′-(phenylamino) biphenyl-3-carboxylic acid | NC1=C(C=C(C=C1)C1=CC(=CC=C1)C(=O)O)NC1=CC=CC=C1 | C19H16N2O2
